US08748446B2
3,4,5-Triiodoaniline was obtained by the procedure of L. Kalb (L. Kalb et al., Über substituierte Indol-2-carbonsäure-8-propionsäuren and einige jodierte Bensolderivate, Chem. Ber. 59 (1926) 1860-1870). 4 g (8.5 mmol) of 3,4,5-triiodoaniline were stirred with the solution of 2.3 mL of concentrated hydrochloric acid and 2.3 mL of water. The mixture was cooled to about −10° C. and the equivalent quantity of 2.5M solution of NaNO2 was added dropwise with intensive stirring. The reaction mixture was continued stirring for 30 min at −10° C. Next, the cooled solution of 5.75 g (25.5 mmol) of SnCl2. 2H2O in 6 mL of concentrated HCl was added dropwise at −10° C. to the suspension of diazocompound. The reaction mixture was kept at −10° C. for one hour and at 5° C. overnight. The obtained precipitate was filtered off and washed with water to yield 4.7 g of 3,4,5-triiodophenylhydrazine, as a double salt with tin chloride, which was used for following step without additional treatment or purification. 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 10.14 (2H, broad s, NH2), 8.46 (1H, s, NH), 7.5 (2H, s, arom.).

reactant | 3,4,5-triiodoaniline | 8.5 mmol, 4 g | IC=1C=C(N)C=C(C1I)I | C6H4I3N
reactant | water | 2.3 mL | O | H2O
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | SnCl2 | 25.5 mmol, 5.75 g | Cl[Sn]Cl
solvent | HCl | 6 mL | Cl | ClH
solvent | hydrochloric acid | 2.3 mL | Cl | ClH
product | 3,4,5-triiodophenylhydrazine | 4.7 g | IC=1C=C(C=C(C1I)I)NN | C6H5I3N2
